2129-09-05 08:00:00 Physician Resident Progress Note
Chief Complaint: Ms. [**Known lastname 10381**] is a 76F with multiple medical problems,
   who is transferred to the MICU for further management of presumed
   sepsis.
   24 Hour Events:
   -tachycardic to 100-110s this seemed to correlate c low grade temps so
   started tylenol
   -tried to sign out to floor ([**Hospital1 2259**]) but team was reluctant to take pt
   [**1-10**] altered mental status.
   -tightened ISS, probably should start on some lantus tomorrow.
   -gave 500cc boluses x2 for low uop c good effect
   -fam called and told transferring to floor and then called back to tell
   not transferred to floor.
   -stooling well after lactulose
   -[**Doctor Last Name 10390**] recs  repeat ECHO and --- , if both are neg should pull off
   of abx.  TTE ordered for today.
   - pt NPO when she transferred her here.  she does have NGT so could get
   tube feeds.  Plan to restart TF today.  s+s also following.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2129-9-3**] 04:05 PM
   Metronidazole - [**2129-9-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2129-9-4**] 10:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-9-5**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.1
C (97
   HR: 106 (93 - 113) bpm
   BP: 121/44(65) {93/38(54) - 140/91(96)} mmHg
   RR: 22 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.9 kg (admission): 69 kg
             Total In:
                                                                  1,660 mL
                                                                    549 mL
   PO:
             TF:
   IVF:
                                                                  1,600 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  1,209 mL
                                                                    312 mL
   Urine:
                                                                  1,209 mL
                                                                    312 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    451 mL
                                                                    237 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Cardiovascular: GENERAL: Somnolent, responds to voice.  Does not engage
   in conversation.
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRLA/EOMI. Dry
   mucous membranes.  Neck Supple, No LAD.
   CARDIAC: Regular rhythm, tachycardic.  +heave, 4/6 systolic murmur at
   the apex.  JVD~10cm.  2+ pulses at radial, DP/PT.
   LUNGS: CTAB anteriorly
   ABDOMEN: NABS. Soft, moaning with palpation diffusely.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   [**Year (4 digits) 503**] / Radiology
   314 K/uL
   11.6 g/dL
   229 mg/dL
   2.1 mg/dL
   24 mEq/L
   3.3 mEq/L
   113 mg/dL
   109 mEq/L
   147 mEq/L
   36.9 %
   13.6 K/uL
        [image002.jpg]
                             [**2129-9-4**]  04:24 AM
                             [**2129-9-5**]  01:52 AM
   WBC
   11.5
   13.6
   Hct
   36.3
   36.9
   Plt
   345
   314
   Cr
   1.8
   2.1
   Glucose
   233
   229
   Other [**Year (4 digits) **]: PT / PTT / INR:24.5/34.5/2.3, ALT / AST:80/96, Alk Phos / T
   Bili:40/1.3, LDH:303 IU/L, Ca++:9.0 mg/dL, Mg++:2.8 mg/dL, PO4:4.5
   mg/dL
   Imaging: CXR
   Microbiology: Urine positive for yeast,
   BLood cultures NGTD
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Ms. [**Known lastname 10381**] is a 76F with multiple medical problems, who is transferred
   to the MICU for further management of presumed sepsis.
   #. ?Sepsis: Patient has re-developed fevers on [**9-2**] on a regimen of
   vancomycin/ceftriaxone.  Possible sources include:
   1. Intra-abdominal source- given pain on palpation (thought reduced
   this AM), and fevers on broad spectrum gram positive coverage with
   somewhat limited gram negative/anaerobic coverage.  DDX includes C.
   diff colitis, mesenteric ischemia (given multiple vasculopathies,
   elevated lactate), abscess. But abdominal exam more benign s/p
   disimpaction, nothing on CT
   2. Urine- given prior history of pyelonephritis, original ddx included
   perinephric abscess, but nothing on CT
   3. Graft site infection of right fem-[**Doctor Last Name 114**] graft site- given right foot
   pain and history of resistant E. coli/ MRSA at the wound site. Unlikely
   lung source, given her clear Xray.
   -On cefepime (for pseudomonas coverage), vanco, flagyl. Will d/c flagyl
   today as cdiff negative and no evidence of intraabdominal source
   -F/u pan culture these cultures will be difficult to interpret in the
   setting of continuous treatment/ppx antibiotics over the past year.
   -CT torso shows no source of infxn, including pulmonary
   -f/u ID recs- not strongly suspicious for infection
   -Have been maintaining SBP's >90's w/ fluid boluses (2 liters in 24
   hours); will rebolus for tachycardia
   -All cultures negative to date. Possible if graft infection? If
   persistently febrile, would d/c all antibiotics and culture to try to
   isolate organism.
   #. Volume status/Chronic systolic HF- As evidenced by her ABGs and
   electrolyte profile, she is over-diureses at this time.  Will hold
   current diuresis, and provide fluids as above.  Will also hold ACE for
   now given hypotension.  Will restart ASA and other cardiac meds today
   as tolerated.
   #. Peripheral arterial disease: will follow up vascular surgery recs
   re: need for angio once hemodynamically stable.
   #. Insulin dependent diabetes: continue ISS with fingersticks; will
   tighten as BS
s remain elevated
   #. Hypertension: hold antihypertensives while managing sepsis
   #. Peripheral arterial disease: s/p recent right fem-[**Doctor Last Name 114**] bypass graft
   c/b wound infections with MRSA/E. coli requiring prolonged courses of
   vanc/cefazolin/aztreonam-->linezolid/cephpodoxime (for cipro resistant
   E. coli).  Then minocycline for MRSA suppression lifelong.
   #. Hyperlipidemia: not currently on a statin, should readdress
   restarting
   #. FEN: Trial of TF, speech and swallow evaluated several days ago, f/u
   recs
   #. PPX:
   -DVT ppx with heparin sC
   #. ACCESS: PIV's
   #. CODE STATUS: DNR/DNI, confirmed with daughter
   -am [**Name2 (NI) **] [**9-5**]: unsure why INR is elevated (she is npo and getting abx
   so maybe just that, could try some vit K.)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2129-9-3**] 12:38 PM
   20 Gauge - [**2129-9-3**] 12:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: